US08252792B2
To a solution of 4-fluoro-2-nitrotoluene (2.0 g) in trifluroacetic acid (8 ml) was added concentrated sulfuric acid (2.5 ml) followed by N-bromosuccinimide (3.4 g). After stirring for 24 hours the reaction mixture was then diluted with ethyl acetate, washed with water, brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to give 1-bromo-5-fluoro-2-methyl-3-nitro-benzene (2.48 g).

reactant | 4-fluoro-2-nitrotoluene | 2.0 g | FC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | sulfuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-bromosuccinimide | 3.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | trifluroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-bromo-5-fluoro-2-methyl-3-nitro-benzene | 2.48 g | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
